US07582668B2
3-Chloro-N-[(1S)-3-hydroxy-1-({4-[8-(1-hydroxyethyl)imidazo[1,2-a]pyridin-2-yl]phenyl}methyl)propyl]-4-[(1-methylethyl)oxy]benzamide
A mixture of 1,1-dimethylethyl [(1S)-3-hydroxy-1-({4-[8-(1-hydroxyethyl)imidazo[1,2-a]pyridin-2-yl]phenyl}methyl)propyl]carbamate (1.08 g, 2.54 mmol) and 4M HCl in 1,4-dioxane (8.0 mL, 32 mmol) was stirred at room temperature for 30 minutes. The reaction was concentrated to dryness, redissolved in DMF (25 mL), and to this solution was added N,N-diisopropylethylamine (1.64 g, 12.7 mmol) and pentafluorophenyl 3-chloro-4 [(1-methylethyl)oxy]benzoate (0.963 g, 2.54 mmol). The mixture was stirred for 3.0 h at room temperature, diluted with water, and extracted into ethyl acetate. The extracts were washed with water and saturated sodium chloride, dried (Na2SO4), and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (2% MeOH:EtOAc) to give the title compound (0.7 g, 53%) as a pale yellow powder. MS(ES+) m/e 522 [M+H]+.

reactant | 1,1-dimethylethyl [(1S)-3-hydroxy-1-({4-[8-(1-hydroxyethyl)imidazo[1,2-a]pyridin-2-yl]phenyl}methyl)propyl]carbamate | 2.54 mmol, 1.08 g | OCC[C@H](CC1=CC=C(C=C1)C=1N=C2N(C=CC=C2C(C)O)C1)NC(OC(C)(C)C)=O | C24H31N3O4
reactant | HCl | 4M | Cl | ClH
reactant | 1,4-dioxane | 32 mmol, 8.0 mL | O1CCOCC1 | C4H8O2
reactant | N,N-diisopropylethylamine | 12.7 mmol, 1.64 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | pentafluorophenyl 3-chloro-4 [(1-methylethyl)oxy]benzoate | 2.54 mmol, 0.963 g | ClC=1C=C(C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F)C=CC1OC(C)C | C16H10ClF5O3
solvent | water | O | H2O
product | 3-Chloro-N-[(1S)-3-hydroxy-1-({4-[8-(1-hydroxyethyl)imidazo[1,2-a]pyridin-2-yl]phenyl}methyl)propyl]-4-[(1-methylethyl)oxy]benzamide | 0.7 g, 53% | ClC=1C=C(C(=O)N[C@H](CCO)CC2=CC=C(C=C2)C=2N=C3N(C=CC=C3C(C)O)C2)C=CC1OC(C)C | C29H32ClN3O4
